US06809110B2
In analogy to the procedure described in example 10 d], 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid ethyl ester (mixture of two diastereomeric racemates) was treated with LiOH to obtain 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid as a mixture of two diastereomeric racemates as colorless liquid.

reactant | 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=C(C=C(C=C1)OC(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1CC1)C)=O | C29H32F3NO3S
reactant | LiOH | [Li+].[OH-]
product | 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid | C1(CC1)C(OC1=CC(=C(CC(C(=O)O)CC)C=C1)C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C27H28F3NO3S
